### PR TITLE
[Merged by Bors] - feat: port SetTheory.Ordinal.Arithmetic

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 1]
```diff
@@ -0,0 +1,3019 @@
...
+      | H α r =>
+        induction b using inductionOn with
+        | H β s =>
+          exact mul_le_of_limit_aux h H⟩
+#align ordinal.mul_le_of_limit Ordinal.mul_le_of_limit
+
+theorem mul_isNormal {a : Ordinal} (h : 0 < a) : IsNormal ((· * ·) a) :=
+  -- Porting note: `simp only []` is required for beta reduction.
+  ⟨fun b => by
+      simp only []
```
Comment (jcommelin) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:811]:
```suggestion
  -- Porting note: `dsimp only` is required for beta reduction.
  ⟨fun b => by
      dsimp only
```
Does this also work?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 2]
```diff
@@ -0,0 +1,3019 @@
...
+
+end Cardinal
+
+namespace Ordinal
+
+theorem lt_add_of_limit {a b c : Ordinal.{u}} (h : IsLimit c) :
+    a < b + c ↔ ∃ c' < c, a < b + c' := by
+  -- Porting note: `have` & `simp` are required for beta reduction.
+  have := IsNormal.bsup_eq.{u, u} (add_isNormal b) h
+  simp only [] at this
```
Comment (jcommelin) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2800]:
```suggestion
  -- Porting note: `have` & `dsimp` are required for beta reduction.
  have := IsNormal.bsup_eq.{u, u} (add_isNormal b) h
  dsimp only at this
```
And maybe here as well?
